US05328919
Pivaloyloxymethyl 2-ethoxy-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate
To a solution of 2-ethoxy-l-[[2'-(N-triphenylmethyl-tetrazol-5-yl) biphenyl-4-yl]methyl]benzimidazole-7-carboxylic acid (2.2 g) in DMF (10 ml) were added potassium carbonate (0.53 g) and pivaloyloxymethyl iodide (0.94 g), and the mixture was stirred for 30 minutes at room temperature. To the reaction mixture was added water and the mixture was extracted with ethyl acetate. The organic layer was washed with water and dried. After removal of the solvent, the residue was dissolved in methanol (30 ml) and 1N-HC1 (6 ml). The mixture was stirred for one hour at room temperature. The reaction mixture was concentrated to dryness and the residue was partitioned between water and ethyl acetate. The organic layer was washed with water and dried. After removal of the solvent, the residue was purified by column chromatography on silica gel to give crystals. The crystals were recrystallized from ethyl acetate - hexane to give colorless crystals (1.13 g, 63%), m.p. 104°-106° C.

reactant | 2-ethoxy-l-[[2'-(N-triphenylmethyl-tetrazol-5-yl) biphenyl-4-yl]methyl]benzimidazole-7-carboxylic acid | 2.2 g | C(C)OC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=CC=C2)C(=O)O | C43H34N6O3
reactant | potassium carbonate | 0.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | pivaloyloxymethyl iodide | 0.94 g | C(C(C)(C)C)(=O)OCI | C6H11IO2
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | Pivaloyloxymethyl 2-ethoxy-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate | 1.13 g, 63% | C(C)OC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)OCOC(C(C)(C)C)=O | C30H30N6O5
